US09034866B2
3-(Aminomethyl)-10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with cyclobutanecarboxylic acid similar to as described in example 2 with non-critical modifications to afford crude 10-bromo-3-(cyclobutanecarboxamidomethyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide which was directly reacted with 2-methyl-3-butyne-ol via General Procedure F to afford 12 mg (29.3%) of 3-[(cyclobutanecarbonylamino)methyl]-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6,7,12-tetra hydro-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide.

reactant | 3-(Aminomethyl)-10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | NCC1=C(N=C2N1C1CC(C3=C2C=C(C(=C3)F)Br)C1)C(=O)N | C15H14BrFN4O
reactant | cyclobutanecarboxylic acid | C1(CCC1)C(=O)O | C5H8O2
product | 10-bromo-3-(cyclobutanecarboxamidomethyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)CNC(=O)C3CCC3)C1)F | C20H20BrFN4O2
